data_prep/sources/art_augmented_reactions.json
{"conditions": [], "steps": [{"reactants": "ON[C@@H]1C(F)[C@H](CCl)C[C@H]2CC=CC[C@H]21.C=O", "products": "[O-]C[NH+](O)[C@@H]1C(F)[C@H](CCl)C[C@H]2CC=CC[C@H]21"}, {"reactants": "[O-]C[NH+](O)[C@@H]1C(F)[C@H](CCl)C[C@H]2CC=CC[C@H]21", "products": "OCN(O)[C@@H]1C(F)[C@H](CCl)C[C@H]2CC=CC[C@H]21"}, {"reactants": "OCN(O)[C@@H]1C(F)[C@H](CCl)C[C@H]2CC=CC[C@H]21", "products": "C=[N+](O)[C@@H]1C(F)[C@H](CCl)C[C@H]2CC=CC[C@H]21.[OH-]"}, {"reactants": "C=[N+](O)[C@@H]1C(F)[C@H](CCl)C[C@H]2CC=CC[C@H]21", "products": "C=[N+]([O-])[C@@H]1C(F)[C@H](CCl)C[C@H]2CC=CC[C@H]21"}, {"reactants": "C=[N+]([O-])[C@@H]1C(F)[C@H](CCl)C[C@H]2CC=CC[C@H]21", "products": "FC1[C@H](CCl)C[C@H]2CC3O[N@]4CC3C[C@H]2[C@@H]14"}]}
{"conditions": [{"role": "reagent", "text": "Δ"}], "steps": [{"reactants": "C=C(Br)CC1=C(Cl)C2C(C)C1CC2(C(=C)O[Si](C)(C)C)C(=O)OC", "products": "C=C(Br)CC12C=C(Cl)CC1(C)CC(C(=O)OC)=C(O[Si](C)(C)C)C2"}, {"reactants": "C=C(Br)CC12C=C(Cl)CC1(C)CC(C(=O)OC)=C(O[Si](C)(C)C)C2", "products": "C=C(Br)CC12C=C(Cl)CC1(C)CC(C(=O)OC)=C(O)C2"}, {"reactants": "C=C(Br)CC12C=C(Cl)CC1(C)CC(C(=O)OC)=C(O)C2", "products": "C=C(Br)CC12C=C(Cl)CC1(C)CC(C(=O)OC)C(=O)C2"}]}
{"conditions": [{"role": "reagent", "text": "cat. Rh2(OAc)4"}], "steps": [{"reactants": "CCC1(C(=O)C(=[N+]=[N-])C(=O)OC)CC(OC)C(Cl)N(C(=O)Cc2cn(C)c3ccccc23)C1=O.[Rh]", "products": "CCC1(C(=O)[C](=[Rh])C(=O)OC)CC(OC)C(Cl)N(C(=O)Cc2cn(C)c3ccccc23)C1=O.N#N"}, {"reactants": "CCC1(C(=O)[C](=[Rh])C(=O)OC)CC(OC)C(Cl)N(C(=O)Cc2cn(C)c3ccccc23)C1=O", "products": "CCC12CC(OC)C(Cl)N(C(=O)Cc3cn(C)c4ccccc34)C1=[O+][C-](C(=O)OC)C2=O.[Rh]"}, {"reactants": "CCC12CC(OC)C(Cl)N(C(=O)Cc3cn(C)c4ccccc34)C1=[O+][C-](C(=O)OC)C2=O", "products": "CCC12CC(OC)C(Cl)N3C(=O)CC45c6ccccc6N(C)C4C(C(=O)OC)(OC315)C2=O"}]}
{"conditions": [{"role": "reagent", "text": "[Rh] catalyst"}], "steps": [{"reactants": "C=CCC(O[SiH](c1ccccc1)c1cc(OC)ccc1Cl)C(C)C.[Rh]", "products": "C=CCC(O[Si]([RhH])(c1ccccc1)c1cc(OC)ccc1Cl)C(C)C"}, {"reactants": "C=CCC(O[Si]([RhH])(c1ccccc1)c1cc(OC)ccc1Cl)C(C)C", "products": "COc1ccc(Cl)c([Si]2(c3ccccc3)OC(C(C)C)C[CH]3[CH2][RhH]32)c1"}, {"reactants": "COc1ccc(Cl)c([Si]2(c3ccccc3)OC(C(C)C)C[CH]3[CH2][RhH]32)c1", "products": "COc1ccc(Cl)c([Si]2(c3ccccc3)OC(C(C)C)CC2[CH2][RhH])c1"}, {"reactants": "COc1ccc(Cl)c([Si]2(c3ccccc3)OC(C(C)C)CC2[CH2][RhH])c1.[C-]#[O+]", "products": "CC(C1CC([Si](c2ccccc2)(O1)c3ccccc3)C[RhH]C#O)C"}, {"reactants": "CC(C1CC([Si](c2ccccc2)(O1)c3ccccc3)C[RhH]C#O)C", "products": "COc1ccc(Cl)c([Si]2(c3ccccc3)OC(C(C)C)CC2C[C](=O)[RhH])c1"}, {"reactants": "COc1ccc(Cl)c([Si]2(c3ccccc3)OC(C(C)C)CC2C[C](=O)[RhH])c1", "products": "COc1ccc(Cl)c([Si]2(c3ccccc3)OC(C(C)C)CC2CC=O)c1.[Rh]"}]}
{"conditions": [{"role": "reagent", "text": "[Pd] catalyst"}, {"role": "reagent", "text": "base"}], "steps": [{"reactants": "Cc1cc(Br)c(N(C)C(=O)C2=CCCC2)cc1F.[Pd]", "products": "Cc1c[c]([Pd][Br])c(N(C)C(=O)C2=CCCC2)cc1F"}, {"reactants": "Cc1c[c]([Pd][Br])c(N(C)C(=O)C2=CCCC2)cc1F", "products": "Cc1cc2c(cc1F)C1(CCC[CH]1[Pd][Br])C(=O)N2C"}, {"reactants": "Cc1cc2c(cc1F)C1(CCC[CH]1[Pd][Br])C(=O)N2C", "products": "Cc1cc2c(cc1F)C1(C=CCC1)C(=O)N2C.Br[PdH]"}, {"reactants": "Br[PdH]", "products": "[Pd].Br"}]}
{"conditions": [], "steps": [{"reactants": "C=C[C@@H]1CCC(=O)[C@@]1(C)CCC1Cc2cc([Si](C)(CF)COC)c([Si](C)(C)C)cc21", "products": "C=C[C@@H]1CCC(=O)[C@@]1(C)CC/C=c1\\cc([Si](C)(CF)COC)c([Si](C)(C)C)cc1=C"}, {"reactants": "C=C[C@@H]1CCC(=O)[C@@]1(C)CC/C=c1\\cc([Si](C)(CF)COC)c([Si](C)(C)C)cc1=C", "products": "COC[Si](C)(CF)c1cc2c(cc1[Si](C)(C)C)CC[C@@H]1[C@@H]2CC[C@]2(C)C(=O)CC[C@@H]12"}]}
{"conditions": [{"role": "reagent", "text": "cat. Rh2(OAc)4"}], "steps": [{"reactants": "CCC1(C(=O)C(=[N+]=[N-])C(=O)OC)C(=O)N(C(=O)Cc2cn(C)c3ccccc23)C(C)CC1C.[Rh]", "products": "CCC1(C(=O)[C](=[Rh])C(=O)OC)C(=O)N(C(=O)Cc2cn(C)c3ccccc23)C(C)CC1C.N#N"}, {"reactants": "CCC1(C(=O)[C](=[Rh])C(=O)OC)C(=O)N(C(=O)Cc2cn(C)c3ccccc23)C(C)CC1C", "products": "CCC12C(=O)[C-](C(=O)OC)[O+]=C1N(C(=O)Cc1cn(C)c3ccccc13)C(C)CC2C.[Rh]"}, {"reactants": "CCC12C(=O)[C-](C(=O)OC)[O+]=C1N(C(=O)Cc1cn(C)c3ccccc13)C(C)CC2C", "products": "CCC12C(=O)C3(C(=O)OC)OC14N(C(=O)CC41c4ccccc4N(C)C31)C(C)CC2C"}]}
{"conditions": [{"role": "reagent", "text": "Δ"}], "steps": [{"reactants": "C=C(Br)CC1=C(OC)C2C(OC)C1CC2(C(=C)O[Si](C)(C)C)C(=O)OC", "products": "C=C(Br)CC12C=C(OC)CC1(OC)CC(C(=O)OC)=C(O[Si](C)(C)C)C2"}, {"reactants": "C=C(Br)CC12C=C(OC)CC1(OC)CC(C(=O)OC)=C(O[Si](C)(C)C)C2", "products": "C=C(Br)CC12C=C(OC)CC1(OC)CC(C(=O)OC)=C(O)C2"}, {"reactants": "C=C(Br)CC12C=C(OC)CC1(OC)CC(C(=O)OC)=C(O)C2", "products": "C=C(Br)CC12C=C(OC)CC1(OC)CC(C(=O)OC)C(=O)C2"}]}
